US05977101
a) Methyl (±)-4-isopropyl-7-[[[(2-benzimidazolyl)methyl]amino]carbonyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate
EDC (173 mg, 0.90 mmol) was added to a stirred solution of methyl (±)-7-carboxy-4-isopropyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (240.3 mg, 0.75 mmol), 2-(aminomethyl)benzimidazole dihydrochloride (198 mg, 0.90 mmol), HOBT.H2O (122 mg, 0.90 mmol), and diisopropylethylamine (0.52 mL, 3.0 mmol) in anhydrous DMF (4 mL) at RT. After 20 h, the reaction was concentrated on the rotavap (high vacuum), and the residue was diluted with H2O (5 mL) to afford a gummy precipitate. EtOAc (3 mL) was added and the mixture was stirred briskly. The precipitate remained gummy, but changed in form so that it was suspended as a mass in the solvents. The solvents were drawn off with a pipet and the residue was suspended in MeOH (3 mL) and EtOAc (6 mL). The mixture was stirred briskly at RT for several min, then was cooled in ice and filtered. The filter pad was washed with EtOAc and dried in high vacuum to leave the title compound (275.1 mg, 82%) as an off-white powder: 1H NMR (250 MHz, 20% CD3OD/CDCl 3) δ 7.45-7.70 (m, 4H), 7.15-7.35 (m, 2H), 6.56 (d, J=9.1 Hz, 1H), 5.22 (d, J=16.9 Hz, 1H), 5.13 (app t, 1H), 4.72-4.92 (m, 1H), 4.72 (s, 2H), 4.03 (d, J=16.9 Hz, 1H), 3.74 (s, 3H), 3.00 (d, J=16.4, 7.7 Hz, 1H), 2.67 (dd, J=16.4, 6.0 Hz, 1H), 1.21 (d, J=6.7 Hz, 3H), 1.03 (d, J=6.8 Hz, 3H); MS (ES) 450.2 (M+H)+.

reactant | EDC | 0.90 mmol, 173 mg
reactant | methyl (±)-7-carboxy-4-isopropyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.75 mmol, 240.3 mg | C(=O)(O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C(C)C)C1 | C16H20N2O5
reactant | 2-(aminomethyl)benzimidazole dihydrochloride | 0.90 mmol, 198 mg | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.90 mmol, 122 mg | O | H2O
reactant | diisopropylethylamine | 3.0 mmol, 0.52 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | Methyl (±)-4-isopropyl-7-[[[(2-benzimidazolyl)methyl]amino]carbonyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 275.1 mg, 82% | C(C)(C)N1C(C(NC2=C(C1)C=C(C=C2)C(=O)NCC=2NC1=C(N2)C=CC=C1)CC(=O)OC)=O | C24H27N5O4
